US07056925B2
4-chloro-1-(3-cyclopenten-1-yloxy)-2-nitrobenzene
A mixture of 2-nitro-4-chlorophenol (3.46 g, 20 mmol), 3-cyclopenten-1-ol (2.1 g, 24 mmol), triphenylphosphine on polystyrene (3.0 mmol per gram, 10 g, 30 mmol) and di-tert-butyl azadicarboxylate (6.9 g, 30 mmol) in THF (200 mL ) was shaken for 1 hour and filtered. The resin was washed with dichloromethane (4×50 mL). The combined organic solutions were mixed with 20 g of silica gel and then concentrated to dryness. The residue was purified by flash column chromatography on silica gel with 15% ethyl acetate/hexanes to provide 4.08 g (85%) of the desired product. 1H NMR (300 MHz, CDCl3) δ 7.80 (d, J=2.4 Hz, 1H), 7.46 (dd, J=8.8, 2.7 Hz, 1H), 7.00 (d, J=8.8 Hz, 1H), 5.75 (br s, 2H), 5.03–5.13 (m, 1H), 2.87 (d, J=6.8 Hz, 1H), 2.82 (d, J=6.8 Hz, 1H), 2.65 (br s, 1H), 2.59 (br s, 1H).

reactant | 2-nitro-4-chlorophenol | 20 mmol, 3.46 g | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)O | C6H4ClNO3
reactant | 3-cyclopenten-1-ol | 24 mmol, 2.1 g | C1(CC=CC1)O | C5H8O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-(3-cyclopenten-1-yloxy)-2-nitrobenzene | 4.08 g, 85% | ClC1=CC(=C(C=C1)OC1CC=CC1)[N+](=O)[O-] | C11H10ClNO3
